US07982036B2
To a stirred solution of N-methoxy-N-methyl-3-(6-(4-phenoxyphenylamino)pyrimidin-4-ylamino)benzamide (50 mg, 0.11 mmol) in THF (0.5 mL) at 0° C. was added a THF solution of 1-butynylmagnesium bromide (1.1 mL, 1.1 mmol). The reaction mixture was allowed to come to rt and was stirred at rt for 30 min. The reaction mixture was quenched with saturated NH4Cl solution (0.5 mL) and was extracted with EtOAc (2×3 mL). The combined EtOAc layer was washed with brine, was dried over anhydrous Na2SO4, was filtered and was concentrated under reduced pressure to give a white solid, which h was further purified by column chromatography (SiO2, 60-120, chloroform/methanol, 9/1) to give 1-(3-(6-(4-phenoxyphenylamino)pyrimidin-4-ylamino)phenyl)but-2-yn-1-one (I-88) as an off-yellow solid. 1H NMR (DMSO-d6) δ ppm: 2.22 (s, 3H), 6.16 (s, 1H), 6.97 (d, J=8.6 Hz, 2H), 7.01 (d, J=8.8 Hz, 2H), 7.1 (t, J=7.2 Hz, 1H), 7.35-7.39 (m, 2H), 7.48 (t, J=8 Hz, 1H), 7.56 (d, J=8.8 Hz, 2H), 7.66 (d, J=7.2 Hz, 1H), 7.95 (d, J=7.6 Hz, 1H), 8.32 (s, 1H), 8.39 (s, 1H), 9.22 (s, 1H), 9.47 (s, 1H); LCMS: m/e 421.1 (M+1).

reactant | N-methoxy-N-methyl-3-(6-(4-phenoxyphenylamino)pyrimidin-4-ylamino)benzamide | 0.11 mmol, 50 mg | CON(C(C1=CC(=CC=C1)NC1=NC=NC(=C1)NC1=CC=C(C=C1)OC1=CC=CC=C1)=O)C | C25H23N5O3
reactant | 1-butynylmagnesium bromide | 1.1 mmol, 1.1 mL | C(#CCC)[Mg]Br
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 1-(3-(6-(4-phenoxyphenylamino)pyrimidin-4-ylamino)phenyl)but-2-yn-1-one | O(C1=CC=CC=C1)C1=CC=C(C=C1)NC1=CC(=NC=N1)NC=1C=C(C=CC1)C(C#CC)=O | C26H20N4O2
